US07566781B2
Aqueous 4 N sodium hydroxide solution (300 μL) was added to a methanol solution (5 mL) of methyl 4-(2,2-difluoro-2-pyridin-2-ylethyl)benzenecarboxylate (90 mg) obtained in Production Example 21-2, and stirred at room temperature for 3 hours. The reaction liquid was neutralized with aqueous 1 N hydrochloric acid, and extracted with ethyl acetate. The organic layer was concentrated under reduced pressure to obtain a crude product of 4-(2,2-difluoro-2-pyridin-2-ylethyl)benzenecarboxylic acid. Next, diisopropylethylamine (86 μL) was added to a DMF (5 mL) solution of the obtained carboxylic acid, the compound (61 mg) obtained in Production Example 39-4 and HATU (94 mg), and stirred at room temperature for 4 hours. Water was added to the reaction liquid, and extracted with ethyl acetate. The organic layer was washed with water and saturated saline water, and then dried with anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (chloroform/methanol=90/1) to obtain the entitled compound (20 mg) as a white solid.

reactant | sodium hydroxide | 4 N, 300 μL | [OH-].[Na+]
reactant | methyl 4-(2,2-difluoro-2-pyridin-2-ylethyl)benzenecarboxylate | 90 mg | FC(CC1=CC=C(C=C1)C(=O)OC)(C1=NC=CC=C1)F | C15H13F2NO2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 4-(2,2-difluoro-2-pyridin-2-ylethyl)benzenecarboxylic acid | FC(CC1=CC=C(C=C1)C(=O)O)(C1=NC=CC=C1)F | C14H11F2NO2
